US04624955
6-Ethyl-3-(3-tolyl)-6H-isoxazolo[3,4-d]pyrazolo[3,4-b]pyridine
4-Chloro-1-ethyl-5-(3-methylbenzoyl)-1H-pyrazolo[3,4-b]pyridine (2.0 g) and hydroxylamine hydrochloride (6.0 g) were suspended in 200 ml of acetic acid, and to this was added 0.5 g of p-toluenesulfonic acid monohydrate. The reaction mixture was refluxed for 2 hours and then distributed between water and dichloromethane. The organic phase was washed four times with water and once with saturated sodium bicarbonate solution. It was then evaporated and chromatographed over 230-400 mesh silica gel, eluting with 10% ethyl acetate/dichloromethane. By combining the appropriate fractions, 1.40 g of product was obtained, mp 178°-179°. This product was combined with the product of another run and recrystallized from ethyl acetate to give product of mp 180°-181° C.

reactant | 4-Chloro-1-ethyl-5-(3-methylbenzoyl)-1H-pyrazolo[3,4-b]pyridine | 2.0 g | ClC1=C2C(=NC=C1C(C1=CC(=CC=C1)C)=O)N(N=C2)CC | C16H14ClN3O
reactant | hydroxylamine hydrochloride | 6.0 g | Cl.NO
reactant | p-toluenesulfonic acid monohydrate | 0.5 g | O.C1(=CC=C(C=C1)S(=O)(=O)O)C
reactant | water | O | H2O
solvent | acetic acid | 200 ml | C(C)(=O)O | C2H4O2
solvent | dichloromethane | ClCCl | CH2Cl2
product | 6-Ethyl-3-(3-tolyl)-6H-isoxazolo[3,4-d]pyrazolo[3,4-b]pyridine | 1.40 g | C(C)N1N=CC2=C1N=CC=1C2=NOC1C=1C=C(C=CC1)C | C16H14N4O
